US04665073
A mixture of ethyl 4-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylthio]butyrate (1.03 g.) and a solution of sodium hydroxide (0.13 g.) in water (10 ml.) was heated under reflux for 1 hour and then cooled. The solution was acidified with glacial HOAc and the white solid which crystallised was collected to give 4-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylthio]butyric acid (0.75 g.), m.p. 234°-236°.

reactant | ethyl 4-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylthio]butyrate | 1.03 g | FC(CN=C(NC1=NC(=NC=C1)SCCCC(=O)OCC)N)(F)F | C13H18F3N5O2S
reactant | sodium hydroxide | 0.13 g | [OH-].[Na+]
reactant | HOAc | CC(=O)O | C2H4O2
solvent | water | 10 ml | O | H2O
product | 4-[4-(2-[2,2,2-trifluoroethyl]guanidino)pyrimid-2-ylthio]butyric acid | 0.75 g | FC(CN=C(NC1=NC(=NC=C1)SCCCC(=O)O)N)(F)F | C11H14F3N5O2S
